US07074799B2
1. 6′-Methoxy-3-trifluoromethyl-[2,3′]bipyridinyl
Heat a mixture of 2-chloro-3-trifluoromethylpyridine (37 g, 0.2 mol), 2-methoxypyridine-5-boronic acid (32 g, 0.21 mol), tetrakis(triphenylphosphine) palladium(0) (9 g, 7 mmol) and 2M potassium carbonate (150 mL) in toluene (500 mL) under a nitrogen atmosphere, at 90° C. for 8 hours. Cool the reaction mixture and separate the layers. Extract the aqueous layer with ethyl acetate (2×250 mL) and wash the combined organics with 4M sodium hydroxide (250 mL), water (250 mL), and brine (250 mL). Dry (MgSO4) and concentrate under reduced pressure. Purify the oil by flash chromatography on silica gel (50% ether/50% hexane) to give the title compound (48.2 g, 95%) as a colorless oil.

reactant | 2-chloro-3-trifluoromethylpyridine | 0.2 mol, 37 g | ClC1=NC=CC=C1C(F)(F)F | C6H3ClF3N
reactant | 2-methoxypyridine-5-boronic acid | 0.21 mol, 32 g | COC1=NC=C(C=C1)B(O)O | C6H8BNO3
reactant | potassium carbonate | 2M, 150 mL | C([O-])([O-])=O.[K+].[K+]
solvent | toluene | 500 mL | C1(=CC=CC=C1)C | C7H8
catalyst | tetrakis(triphenylphosphine) palladium(0) | 7 mmol, 9 g | [Pd].C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1
product | 6′-Methoxy-3-trifluoromethyl-[2,3′]bipyridinyl | 48.2 g, 95% | COC1=CC=C(C=N1)C1=NC=CC=C1C(F)(F)F | C12H9F3N2O
